US05319133
D. Preparation of N-chloro-2-methyl decanamide
2-Methyl decanamide (50 g, 270 mmol) was suspended in 300 ml of methylene chloride, cooled to 2° C. and aqueous HOCl (14.72 g, 280 mmol) was added over about 10 minutes. The mixture was stirred in the cold for 15 minutes, then at room temperature for 45 minutes. The methylene chloride layer was separated, dried over magnesium sulfate, and the solvent removed on a rotary evaporator in a warm water bath to give 56 g (94% yield) of white solid product, m.p. 56°-57° C.

reactant | 2-Methyl decanamide | 270 mmol, 50 g | CC(C(=O)N)CCCCCCCC | C11H23NO
reactant | HOCl | 280 mmol, 14.72 g | OCl | ClHO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-chloro-2-methyl decanamide | 56 g, 94% yield | ClNC(C(CCCCCCCC)C)=O | C11H22ClNO
